US09315521B2
6-chloropyridine-3-carbaldehyde (5.0 g, 35.32 mmol) and 1-ethylpiperazine (20.16 g, 176.60 mmol, 22.42 mL) were heated overnight in a mixture of DMF/water (1:1, 40 mL) at 100° C. The reaction mixture was extracted with ethyl acetate (2×100 mL). The organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was evaporated to dryness to provide 6-(4-ethylpiperazin-1-yl)pyridine-3-carbaldehyde, which was used in the next reaction without any further purification (6.91 g, 89% yield); 1H NMR (400 MHz, DMSO-d6): δ 0.99 (t, 3H), 2.31 (q, 2H), 2.39 (m, 4H), 3.66 (m, 4H), 6.91 (d, J=9.2 Hz, 1H), 7.82 (d, J=9.2 Hz, 1H), 8.55 (s, 1H), 9.7 (s, 1H); LRMS (ES+) m/z 219.8.

reactant | 6-chloropyridine-3-carbaldehyde | 35.32 mmol, 5.0 g | ClC1=CC=C(C=N1)C=O | C6H4ClNO
reactant | 1-ethylpiperazine | 176.60 mmol, 22.42 mL, 20.16 g | C(C)N1CCNCC1 | C6H14N2
solvent | DMF water | 40 mL | CN(C)C=O.O
product | 6-(4-ethylpiperazin-1-yl)pyridine-3-carbaldehyde | 89% yield | C(C)N1CCN(CC1)C1=CC=C(C=N1)C=O | C12H17N3O
